US06013809
(RS)-4-[(methyl-phenethyl-amino)-methyl]-3,4-dihydro-2H-benzo[b]oxepin-5-one
A mixture of 24.4 g 3,4-dlihydro-2H-benzo[b]oxepin-5-one, 17.2 g N-methyl-2-phenylethylamine hydrochloride and 3.0 g paraformaldehyde in 200 ml glacial acetic acid was heated at 100° C. for 3 hours. Thereafter, the solvent was evaporated under vacuum and the residue was taken up in 200 ml water. The product was extracted three times with 100 ml diethyl ether each time. The aqueous phase was made alkaline with potassium carbonate and was extracted three times with 100 ml dichloromethane each time. After washing the extracts with saturated sodium chloride solution, drying them over sodium sulphate and concentrating them by evaporation under vacuum, 23.9 g (77.2% theoretical) of the title compound remained behind as a yellowish oil.

reactant | N-methyl-2-phenylethylamine hydrochloride | 17.2 g | Cl.CNCCC1=CC=CC=C1
reactant | paraformaldehyde | 3.0 g | C=O | CH2O
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (RS)-4-[(methyl-phenethyl-amino)-methyl]-3,4-dihydro-2H-benzo[b]oxepin-5-one | CN(CCC1=CC=CC=C1)CC1C(C2=C(OCC1)C=CC=C2)=O | C20H23NO2
